US06875757B2
tert-Butyl N-[1-(hydroxymethyl)-2-(3-methoxyanilino)-2-oxoethyl]carbamate
To a solution of m-anisidine (171 mg, 1.38 mmol) in THF (30 ml), N-(tert-butoxycarbonyl)-L-serine β-lactone (200 mg, 1.06 mmol) was added, and the mixture was refluxed overnight under argon. The reaction mixture was concentrated on a rotary evaporator. The residue was subjected to flash column chromatography, eluting with EtOAc/hexanes of various compositions.

reactant | m-anisidine | 1.38 mmol, 171 mg | COC1=CC(=CC=C1)N | C7H9NO
reactant | N-(tert-butoxycarbonyl)-L-serine β-lactone | 1.06 mmol, 200 mg | CC(C)(C)OC(=O)N[C@H]1COC1=O | C8H13NO4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | tert-Butyl N-[1-(hydroxymethyl)-2-(3-methoxyanilino)-2-oxoethyl]carbamate | OCC(C(=O)NC1=CC(=CC=C1)OC)NC(OC(C)(C)C)=O | C15H22N2O5
